Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Cough, shortness of breath 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with history of
paroxysmal atrial fibrillation on coumadin, prior bilateral
centrum semiovale strokes with residual dysarthria and 
completely
dependent on others for ADLs, ESRD on HD (___),
prior lisinopril-induced angioedema and HTN initially presenting
to ___ with hypoglycemia (BG 36 in the field). ___ RN note, EMS was called to the patient's residence and 
patient
was subsequently found to be hypoglycemic and given dextrose 
with
repeat BS 120. However, EMS noticed patient O2 sat 87% on RA and
she was subsequently placed on supplemental O2 (does not wear O2
normally). Patient transferred to ___ for further management.

Spoke with ___ over the phone about the events leading up
to patient's hospitalization. Patient lives with other family
members but per ___, patient had reduced po intake over the
past week and had not been taking her pills (usually 
administered
by a ___ or family however she was refusing them). Patient also
noted to be coughing and had been feeling her head with her hand
though no temperature was taken. She reportedly had vomiting and
diarrhea for the past week and given her overall malaise and
weakness, family decided to call EMS.

In the ___, initial VS were:  97.9 97 127/78 22 100% RA 
Labs showed: WBC 14.6 Hgb 9.8 (MCV 71), Cr 2.9 (on HD), lactate
1.8, Flu negative 
Imaging showed:
CT CHEST (___):  
1. Complete occlusion of the left mainstem bronchus with near
complete collapse of the left upper lobe due to filling of the
bronchus with soft tissue density material, possibly reflective
of mucous plugging, though a neoplastic lesion cannot be
completely excluded on this noncontrast exam.  Correlation with
bronchoscopy is recommended. 
2. Small apical predominant left pleural effusion, suggesting
loculation. 
3. Subpleural solid nodules within the right lung measuring up 
to
6 mm, new from the prior exam.  See recommendations section 
below
regarding need for follow-up chest CT imaging. 
4. Ground-glass centrilobular nodular opacities in the right
lower lobe suggests small airways disease, either infectious or
inflammatory in etiology. 
5. Numerous enlarged mediastinal lymph nodes, which may be
reactive. 
6. Wedge-shaped hypodensity within the spleen, which may be due
to prior infarction. 
Consults: None 
Patient received: 1 L NS, Vancomyin 1000 mg, Cefepime 2 g,
Ketorolac 15 mg 
Transfer VS were: HR 89 BP 136/61 RR 25 O2Sat 100% 2L NC  

On arrival to the floor, patient reports having a cough for
several weeks. She denies shortness of breath and does not use
supplemental O2 at home. She denies fevers, chest pain,
palpitations, abdominal pain, nausea, vomiting, or diarrhea. She
does not make urine
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
 
Past Medical History:
IDDM2 (dx ___ yrs ago), multiple admissions for uncontrolled DM  

 ESRD on hemodialysis (M, W, F)  
 HTN  
 Hypercholestolemia  
 PSH:  
 Jump graft revision with thrombectomy of right  
 upper extremity AV graft ___  
 ___ RUE AVG revision  

 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 97.7PO 98 / 49 92 20 100 2lnc  
GENERAL: NAD, oriented to town, president, and hospital, not to
month or year 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Decreased breath sounds in left lung field on anterior
lung exam, no wheezing, rale, or rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. ___ hand
grip b/l; able to wiggle toes; sensation grossly intact
bilaterally; dysarthric and difficult to understand; answer
questions appropriately 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION LABORATORY STUDIES
===============================
___ 08:05PM BLOOD WBC-14.6* RBC-4.59 Hgb-9.8* Hct-32.5* 
MCV-71* MCH-21.4* MCHC-30.2* RDW-25.2* RDWSD-58.6* Plt ___
___ 08:05PM BLOOD Neuts-91.3* Lymphs-4.8* Monos-3.2* 
Eos-0.1* Baso-0.1 NRBC-0.2* Im ___ AbsNeut-13.32* 
AbsLymp-0.70* AbsMono-0.46 AbsEos-0.01* AbsBaso-0.02
___ 12:40AM BLOOD ___ PTT-32.9 ___
___ 08:05PM BLOOD Glucose-93 UreaN-12 Creat-2.9*# Na-141 
K-4.4 Cl-100 HCO3-30 AnGap-11
___ 08:05PM BLOOD ALT-14 AST-16 AlkPhos-92 TotBili-0.5
___ 08:05PM BLOOD Lipase-7
___ 08:05PM BLOOD Albumin-1.8*
___ 06:30AM BLOOD Calcium-7.3* Phos-1.8* Mg-1.7
___ 06:30AM BLOOD %HbA1c-4.6 eAG-85
___ 08:13PM BLOOD Lactate-1.8

IMAGING/REPORTS
===============================
CXR:
IMPRESSION:
In comparison with the study of ___, there has been 
total collapse of
the left lung with displacement of mediastinal structures to 
this side.  The
right lung remains essentially clear.
 
CT CHEST
IMPRESSION:
1. Complete occlusion of the left mainstem bronchus with near 
complete
collapse of the left upper lobe due to filling of the bronchus 
with soft
tissue density material, possibly reflective of mucous plugging, 
though a
neoplastic lesion cannot be completely excluded on this 
noncontrast exam. 
Correlation with bronchoscopy is recommended.
2. Small apical predominant left pleural effusion, suggesting 
loculation.
3. Subpleural solid nodules within the right lung measuring up 
to 6 mm, new
from the prior exam.  See recommendations section below 
regarding need for
follow-up chest CT imaging.
4. Ground-glass centrilobular nodular opacities in the right 
lower lobe
suggests small airways disease, either infectious or 
inflammatory in etiology.
5. Numerous enlarged mediastinal lymph nodes, which may be 
reactive.
6. Wedge-shaped hypodensity within the spleen, which may be due 
to prior
infarction.
RECOMMENDATION(S):
1. Bronchoscopy is recommended for further assessment of the 
endobronchial
soft tissue density.
2. For incidentally detected multiple solid pulmonary nodules 
measuring 6 to 8
mm, a CT follow-up in 3 to 6 months is recommended in a low-risk 
patient, with
an optional CT follow-up in 18 to 24 months. In a high-risk 
patient, both a CT
follow-up in 3 to 6 months and in 18 to 24 months is 
recommended.See the ___
___ Guidelines for the Management of Pulmonary 
Nodules
Incidentally Detected on CT" for comments and reference:
___
 
Brief Hospital Course:
Mrs. ___ was a ___ woman with a history of paroxysmal 
atrial fibrillation, prior strokes with residual dysarthria, 
dependent for ADLs, end-stage renal disease on dialysis who was 
transferred from ___ with hypoglycemia and found 
to be hypoxemic with near complete collapse of left upper lung.  


Workup was notable for complete occlusion of the left mainstem 
bronchus with near complete collapse of the left upper lobe due 
to filling of the bronchus with soft tissue density that was 
thought to be due to mucous plugging.  Her clinical status was 
initially very reassuring.  She was asymptomatic with good 
oxygen saturation on room air.  The case was discussed with 
interventional pulmonology service.  After discussion with the 
family regarding the potential treatment options, the patient 
and family opted to pursue conservative measures with mucinex, 
acapella valve, chest physical therapy, and treatment for 
community-acquired pneumonia.  

The following morning, the patient developed coughing after 
taking her morning medications and then became unresponsive 
without a pulse.  Attempts were made to perform the Heimlich 
maneuver and the oropharnyx was examined for foreign body.  
Despite these attempts, the patient passed away on ___ at 
8:17AM (please see death note in OMR).  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clonidine Patch 0.1 mg/24 hr 1 PTCH TD QMON 
4. HydrALAZINE 50 mg PO Q8H 
5. Losartan Potassium 100 mg PO DAILY 
6. Warfarin 3 mg PO DAILY16 
7. Pantoprazole 20 mg PO Q24H 

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___